US07335660B2
To a solution of tert-butyl 4-(1,2-dihydro-5-acenaphthylenyl)-4-hydroxy-1-piperidinecarboxylate (0.44 g, 1.24 mmol) in dichloromethane (4 mL) was added triethylsilane (1.10 mL, 6.22 mmol) under nitrogen. The mixture was cooled to −30° C. then trifluoroacetic acid (0.48 mL, 6.22 mmol) added dropwise, maintaining the temperature below −25° C. After 2.5 h, the reaction mixture was allowed to warm to 0° C. and additional trifluoroacetic acid (0.48 mL, 6.22 mmol) added over 5 min. The reaction mixture was allowed to warm to room temperature and left to stir for 3 days. Ice was then added to the reaction mixture, followed by potassium hydroxide to a pH of 14, and the resultant slurry extracted with dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to yield a yellow oil. The oil was dissolved in methanol and loaded onto an SCX-2 column. The column was washed with methanol, then a 2N solution of ammonia in methanol. Concentration in vacuo of the ammonia solution yielded 4-(1,2-dihydro-5-acenaphthylenyl)piperidine as a pale yellow oil.

reactant | tert-butyl 4-(1,2-dihydro-5-acenaphthylenyl)-4-hydroxy-1-piperidinecarboxylate | 1.24 mmol, 0.44 g | C1CC2=CC=C(C3=CC=CC1=C23)C2(CCN(CC2)C(=O)OC(C)(C)C)O | C22H27NO3
reactant | triethylsilane | 6.22 mmol, 1.10 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 6.22 mmol, 0.48 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 6.22 mmol, 0.48 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 4-(1,2-dihydro-5-acenaphthylenyl)piperidine | C1CC2=CC=C(C3=CC=CC1=C23)C2CCNCC2 | C17H19N
